US04698334
mancozeb:
manganese and zinc (2.5% w/w) ethylene-bisdithiocarbamate as a wettable powder containing 80% w/w of active ingredient captafol: N-(1,1,2,2-tetrachloroethylthio)-1,2,3,6-tetrahydrophthalimide as a suspension concentrate containing 480 g./l. of active material.

reactant | manganese | [Mn] | Mn
reactant | zinc | [Zn] | Zn
reactant | ethylene-bisdithiocarbamate | C(CNC([S-])=S)NC([S-])=S
reactant | captafol | C1C=CCC2C1C(=O)N(C2=O)SC(C(Cl)Cl)(Cl)Cl | C10H9Cl4NO2S
product | mancozeb | C(CNC(=S)[S-])NC(=S)[S-].C(CNC(=S)[S-])NC(=S)[S-].[Mn+2].[Zn+2] | InChI=1S/2C4H8N2S4.Mn.Zn/c2*7-3(8)5-1-2-6-4(9)10;;/h2*1-2H2,(H2,5,7,8)(H2,6,9,10);;/q;;2*+2/p-4
